US03988339
8-Chloro-7-methoxy-4-methylisoquinoline (0.89 g.) in 48% hydrobromic acid is refluxed for 48 hours. The mixture is evaporated to dryness in vacuo, redissolved in water and neutralized with ammonium hydroxide. The mixture is cooled and the precipitate is filtered off and treated with hydrogen chloride in ethanol. Ether is added and the precipitate is filtered off to give 8-chloro-7-hydroxy-4-methylisoquinoline hydrochloride.

reactant | 8-Chloro-7-methoxy-4-methylisoquinoline | 0.89 g | ClC=1C(=CC=C2C(=CN=CC12)C)OC | C11H10ClNO
solvent | hydrobromic acid | Br | BrH
product | 8-chloro-7-hydroxy-4-methylisoquinoline hydrochloride | Cl.ClC=1C(=CC=C2C(=CN=CC12)C)O | InChI=1S/C10H8ClNO.ClH/c1-6-4-12-5-8-7(6)2-3-9(13)10(8)11;/h2-5,13H,1H3;1H
